US08937071B2
To a mixture of ethyl 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate (2 g, 6.91 mmol) in THF (200 mL) was added LAH (0.525 g, 13.83 mmol) in portions. The mixture was stirred at 25° C. for 10 h. The mixture was quenched with 15% NaOH (aq, 10 mL). The mixture was dried over Na2SO4. The mixture was filtered and the filtrate was concentrated. The residue was purified on silica column chromatography (PE/EA=8:1). All fractions found to contain product by TLC (PE/EA=2:1, Rf=0.35) were combined and concentrated to yield a light yellow oil of 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-dimethylpropan-1-ol (1.1 g, 4.45 mmol, 64.4% yield): 1H NMR (400 MHz, MeOD) δ: 7.17 (d, J=8.4 Hz, 1H), 6.98 (d, J=2.4 Hz, 1H), 6.84 (dd, J=2.4, 8.0 Hz, 1H), 3.31 (s, 2H), 2.67 (d, J=1.2 Hz, 2H), 0.84 (s, 6H); ES-LCMS m/z 248 (M+H).

reactant | ethyl 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-dimethylpropanoate | 6.91 mmol, 2 g | NC1=CC(=C(C=C1)CC(C(=O)OCC)(C)C)C(F)(F)F | C14H18F3NO2
reactant | LAH | 13.83 mmol, 0.525 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 3-(4-amino-2-(trifluoromethyl)phenyl)-2,2-dimethylpropan-1-ol | 4.45 mmol, 1.1 g, 64.4% yield | NC1=CC(=C(C=C1)CC(CO)(C)C)C(F)(F)F | C12H16F3NO
